datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][NH+:10](C([H])C(C)C(C)[NH]1)[C:20]1([NH:21]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C([H])C(C)C(C)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]C 21=20;20,10=10"
"[H][NH:10]C(CC)C(C)C(CC)[O][C:20]([NH]CC)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(CC)C(C)C(CC)[O]1)[C:20]1([NH:21][H])[NH]CC 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21][H])[NH][CH](CC)C(C)[CH](CC)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C(CC)[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])CC)CCCCCC)C1=CC=CC=C1)C1=CC=CC=C1>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)CC)CCCCCC)C1=CC=CC=C1)[O-:10])C1=CC=CC=C1 21=20;20,10=10"
"C9=CC=CC=C9[S+:10]([H])[C:20]([O:21]C)([O]C8=CC=CC=C8)[S]C7=CC=CC=C7.[Cl-]>>[Cl-].C9=CC=CC=C9[S:10][H].C[O+:21]=[C:20]([O]C8=CC=CC=C8)[S]C7=CC=CC=C7 21=20;20,10=10"
"[H][S:10]C([H])C(CC)[O][C:20]([O]C7=CC=CC=C7)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C([H])C(CC)[O]1)[C:20]1([O:21]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"C9=CC=CC=C9[NH:10][H].C[NH+:21]=[C:20]([O]CC)[NH]CC.[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21]C)([O]CC)[NH]CC 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O][H].[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C8=CC=CC=C8)[O][C:20]([O][H])=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[O-:21][C:20]1([H])C([H])C([H])C(C)C(CCC)[O+:10]1([Na])>>[O:10]([Na])C(CCC)C(C)C([H])C([H])[C:20]([H])=[O:21] 21=20;20,10=10"
"[H][O+:10](C(CC)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C8=CC=CC=C8)[S][C:20]([O]C7=CC=CC=C7)=[O+:21][H] 21=20;20,10=10"
"[H][O:10]C([H])C(C)C([H])[O][C:20]([O][H])=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C([H])C(C)C([H])[O]1)[C:20]1([NH:21]C)[O][H] 10=20;20,21=21"
"[H][O:10]C([H])C(C)C(CC)[S][C:20]([S]CC)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C([H])C(C)C(CC)[S]1)[C:20]1([O:21]C)[S]CC 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](N1CC)([O-:10])[O:21][H])CCCCCC)[H]>>CCCCCCC1C(C(O[C:20](=[O:10])N1CC)CCCCCC)[H].[O-:21][H] 10=20;20,21=21"
"[H][NH+:10](C(CC)C([H])C(C)[NH]1)[C:20]1([NH:21][H])[O]CC.[Cl-]>>[Cl-].[H][NH:10]C(CC)C([H])C(C)[NH][C:20]([O]CC)=[NH+:21][H] 21=20;20,10=10"
"[NH:10](CC)C(C(C=CC=C9)=C9[C:20](OCC)=[O:21])CC>>[O-:21][C:20]2([NH+:10](CC)C(C7=C2C=CC=C7)CC)OCC 10=20;20,21=21"
"[H][S+:10](C(C9=CC=CC=C9)C(C)C(CC)[O]1)[C:20]1([O:21][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][S:10]C(C9=CC=CC=C9)C(C)C(CC)[O][C:20]([O]C7=CC=CC=C7)=[O+:21][H] 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([O:21]C)[S][CH]([H])C([H])[CH](C)[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S][CH]([H])[CH]([H])C(C)[O]2.C[O:10][H] 21=20;20,10=10"
"CCC1C(C(O[C:20](N1C)([O-:10])[O:21]CCCCCC)C1=CC=CC=C1)CCCCCC>>CCC1C(C(O[C:20](=[O:10])N1C)C1=CC=CC=C1)CCCCCC.[O-:21]CCCCCC 10=20;20,21=21"
"[Si](C)(C)(C)[O+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[S]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[O]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[S]1 10=20;20,21=21"
"[H][NH:10]C(C)C(C8=CC=CC=C8)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]CC)[O]C7=CC=CC=C7 10=20;20,21=21"
"[H]C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21][H])CCCCCC)[H]>>[H]C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CCCCCC)[H].[O-:21][H] 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([NH:21][H])[O][CH]([H])C([H])[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C(C8=CC=CC=C8)[O]2.[H][O:10][H] 21=20;20,10=10"
"[O-:21][CH:20]2(OC)C3=C(C(C([NH+:10]2(C))C)O)C=CC=C3>>[NH:10](C)C(C(C1=C(C=CC=C1)[CH:20](OC)=[O:21])O)C  21=20;20,10=10"
"[H]C1C(C(O[C:20](N1CC)([O-:10])[O:21]CCCCCC)CCCCCC)[H]>>[H]C1C(C(O[C:20](=[O:10])N1CC)CCCCCC)[H].[O-:21]CCCCCC 10=20;20,21=21"
"[O:10]([Na])C(C)/C([H])=C([C:20]([H])=[O:21])/C>>[O-:21][C:20]1([H])[O+:10]([Na])C(C)C([H])=C1C 10=20;20,21=21"
"[OH:21][C:20]1(OCC)C([H])C(C)C([H])C(C)[OH+:10]1>>[OH:10]C(C)C([H])C(C)C([H])[C:20](OCC)=[OH+:21] 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C)[O]CC.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[O][C:20]([O]CC)=[NH+:21]C 21=20;20,10=10"
"[NH:10]([H])C([H])/C([H])=C([C:20](OCC)=[O:21])/C>>[O-:21][C:20]1(OCC)[NH+:10]([H])C([H])C([H])=C1C 10=20;20,21=21"
"[H][O:10]C(CC)C([H])C(C)[S][C:20]([O]C7=CC=CC=C7)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(CC)C([H])C(C)[S]1)[C:20]1([O:21]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"[O:20]=[C:21](OC1=CC=CC=C1)O[H].[H][O:10][Li]>>[H][O+:10]([Li])[C:21]([O-:20])(OC1=CC=CC=C1)O[H] 10=21;21,20=20"
"[H][O+:10](C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([O:21]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C([H])C(C8=CC=CC=C8)[O][C:20]([O]C7=CC=CC=C7)=[O+:21]C 21=20;20,10=10"
"CC[NH:10]C.C1CC(=O)N(C1=O)O[C:20](=[O:21])[H]>>CC[NH+:10]([C:20]([O-:21])(ON1C(=O)CCC1=O)[H])C 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C(C8=CC=CC=C8)[NH]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](CC)C([H])[CH](C8=CC=CC=C8)[NH]1 10=20;20,21=21"
